US04277393
(2) Production of BOC-Val-Gly-OEt
1 liter of ethyl acetate was added to 80 g of BOC-Val.DCHA and the mixture was washed twice with 600 ml of sulfuric acid and water, dried over anhydrous sodium sulfate and concentrated in vacuo to obtain the free acidin an oily form. The free acid and 28 g of H-Gly-OEt.HCl were dissolved in a solvent mixture of 150 ml of chloroform and 150 ml of THF. The solution was cooled and 28 ml of triethylamine and 41.2 g of DCC were added thereto. The resultant mixture was stirred at a temperature of 0° to -2° C. for 1 hour and at room temperature overnight. The insoluble materials were removed by filtration and the filtrate was concentrated in vacuo. The residue was dissolved in ethyl acetate, washed with 1 N hydrochloric acid, water, a 5% sodium bicarbonate aqueous solution and water, dried over magnesium sulfate and concentrated in vacuo. The resulting residue was crystallized by addition of n-hexane and recrystallized from ethyl acetate-diethyl ether-n-hexane to obtain 54 g (89.2%) of the desired material with a melting point of 94°-96° C.

reactant | ethyl acetate | 1 liter | C(C)(=O)OCC | C4H8O2
reactant | BOC-Val | 80 g | N([C@@H](C(C)C)C(=O)O)C(=O)OC(C)(C)C | C10H19NO4
reactant | H-Gly-OEt.HCl | 28 g | NCC(=O)OCC.Cl
reactant | DCC | 41.2 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | triethylamine | 28 ml | C(C)N(CC)CC | C6H15N
product | BOC-Val-Gly-OEt | 54 g, 89.2% | N([C@@H](C(C)C)C(=O)NCC(=O)OCC)C(=O)OC(C)(C)C | C14H26N2O5
